US05633379
5.6 g (16.5 mmol) of 2-tert-butyloxycarbonylmethylthio-4-phenyl-butyric acid ethyl ester are placed at room temperature in 60 ml of dichloromethane. 3.8 ml (49.6 mmol) of trifluoro-acetic acid are added and the mixture is stirred for 16 hours at room temperature, then a further 3.8 ml of trifluoroacetic acid is added and the mixture is stirred for 24 hours at room temperature and then washed in succession with 25 ml of water and 25 ml of saturated sodium chloride solution. The aqueous phases are then washed with 2550 ml of dichloro-methane. The combined organic phases are dried over sodium sulfate, filtered and concentrated by evaporation. 4.86 g (100% of theory) of crude 2-carboxymethylthio-4-phenyl-butyric acid ethyl ester are obtained in the form of a brown oil.

reactant | 2-tert-butyloxycarbonylmethylthio-4-phenyl-butyric acid ethyl ester | 16.5 mmol, 5.6 g | C(C)OC(C(CCC1=CC=CC=C1)SCC(=O)OC(C)(C)C)=O | C18H26O4S
reactant | trifluoro-acetic acid | 49.6 mmol, 3.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 3.8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-carboxymethylthio-4-phenyl-butyric acid ethyl ester | 4.86 g, 100% | C(C)OC(C(CCC1=CC=CC=C1)SCC(=O)O)=O | C14H18O4S
